US05352705
N-t-Butoxycarbonyl-L-alanine benzylamide
N-t-Butoxycarbonyl-L-alanine (377 mg, 2.0 mmol), HOBT (283 mg, 2.1 mmol) and EDC hydrochloride (420 mg, 2.2 mmol) were dissolved in 5 mL of DMF. Benzylamine (230 μL, 2.1 mmol) was added followed by triethylamine (280 μL, 1.9 mmol). The mixture was stirred overnight and the solvent was evaporated. The residue was partitioned between ethyl acetate and 10% citric acid and the organic phase was washed sequentially with 10% sodium bicarbonate and brine. The solution was dried and evaporated to yield 498 mg of a waxy solid.

reactant | N-t-Butoxycarbonyl-L-alanine | 2.0 mmol, 377 mg | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | HOBT | 2.1 mmol, 283 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC hydrochloride | 2.2 mmol, 420 mg | CCN=C=NCCCN(C)C.Cl
reactant | Benzylamine | 2.1 mmol, 230 μL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 1.9 mmol, 280 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-t-Butoxycarbonyl-L-alanine benzylamide | C(C1=CC=CC=C1)NC([C@@H](NC(=O)OC(C)(C)C)C)=O | C15H22N2O3
